US08871782B2
2-Ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-yl methanesulfonate (0.625 g, 1.52 mmol) was dissolved in chloroform (15 mL). 3-Chloroperoxybenzoic acid (60% pure, 0.437 g, 1.52 mmol) was added in one portion, and the reaction was stirred for 25 minutes. Ammonium hydroxide (25 mL) was added. A precipitate formed, and the reaction was stirred until the precipitate dissolved. p-Toluenesulfonyl chloride (0.290 g, 1.52 mmol) was added in one portion, and the reaction mixture was stirred for an additional 16 hours. The layers were separated, and the aqueous fraction was extracted with dichloromethane followed by chloroform. The organics were combined, washed sequentially with water and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. Purification by column chromatography on silica gel (eluting with a chloroform:methanol:ammonium hydroxide gradient) followed by recrystallization from acetonitrile provided 0.150 g of 4-amino-2-ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-yl methanesulfonate as an orange solid, mp 213.0-214.5° C.

reactant | 2-Ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-yl methanesulfonate | 1.52 mmol, 0.625 g | CS(=O)(=O)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCOC3=CC=CC=C3)CC | C21H21N3O4S
reactant | 3-Chloroperoxybenzoic acid | 1.52 mmol, 0.437 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Ammonium hydroxide | 25 mL | [OH-].[NH4+]
reactant | p-Toluenesulfonyl chloride | 1.52 mmol, 0.290 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-2-ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-yl methanesulfonate | 0.150 g | CS(=O)(=O)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCOC3=CC=CC=C3)CC | C21H22N4O4S
